US07087614B2
D1.1: 2-Amino-6-diethoxymethyl-3H-pyrimidin-4-one
A solution of 4,4-diethoxy-3-oxo-butyric acid ethyl ester [Johnson, T. B. and Mikeska, L. A. J. Am. Chem. Soc. 41, 810 (1919)] (18.0 g, 82.5 mol) in ethanol (300 mL) was treated with guanidine carbonate (14.8 g, 82.5 mol) and this was stirred under reflux until no solid remained (˜4 hours). The mixture was concentrated, diluted with water and the solid was collected by filtration to give D1.1 (13.1 g, 74%) as a beige solid. 1H-NMR (DMSO-d6) δ: 10.78 (1H, br s), 6.61 (2H, br s), 5.63 (1H, s), 4.90 (1H, s), 3.51 (4H, m), 1.13 (6H, t, J=7.1 Hz). LC/MSc: ret. time: 0.757 min. (M+H)+: 214. M.p.: 198.0–202.7° C.

reactant | 4,4-diethoxy-3-oxo-butyric acid ethyl ester | C(C)OC(CC(C(OCC)OCC)=O)=O | C10H18O5
reactant | guanidine carbonate | 82.5 mol, 14.8 g | C(O)(O)=O.NC(=N)N
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 2-Amino-6-diethoxymethyl-3H-pyrimidin-4-one | NC1=NC(=CC(N1)=O)C(OCC)OCC | C9H15N3O3
